US08138197B2
Production of N-Carbamoylmethyl-1′-{[3,5-diethoxy-4-(1-methyl-1H-pyrazol-4-yl)phenyl]carbonyl}-4-oxospiro[chroman-2,4′-piperidine]-6-carboxamide
N-Carbamoylmethyl-4-oxospiro[chroman-2,4′-piperidine]-6-carboxamide hydrochloride (354 mg), 3,5-diethoxy-4-(1-methyl-1H-pyrazol-4-yl)benzoic acid (145 mg), WSC hydrochloride (115 mg), HOBT (91.2 mg) and triethylamine (0.209 mL) were suspended in DMF (3 mL), and stirred at 50° C. for 16 hours. Water was added to it, the formed solid was taken out through filtration, and the resulting solid was purified through silica gel column chromatography (chloroform/methanol), and crystallized from chloroform/diethyl ether to obtain the title compound. 1H-NMR (400 MHz, DMSO-d6) δ: 8.75 (1.0H, t, J=5.6 Hz), 8.35-8.28 (1.0H, m), 8.09 (1.0H, dd, J=8.8, 2.2 Hz), 8.04 (1.0H, s), 7.92 (1.0H, s), 7.35 (1.0H, s), 7.17 (1.0H, d, J=8.8 Hz), 7.00 (1.0H, s), 6.68 (2.0H, s), 4.31-4.02 (1.0H, m), 4.08 (4.0H, q, J=7.0 Hz), 3.86 (3.0H, s), 3.77 (2.0H, d, J=5.9 Hz), 3.64-3.02 (3.0H, m), 2.93 (2.0H, s), 2.10-1.72 (4.0H, m), 1.37 (6.0H, t, J=7.0 Hz). MS [M+H]+=590.

reactant | N-Carbamoylmethyl-4-oxospiro[chroman-2,4′-piperidine]-6-carboxamide hydrochloride | 354 mg | Cl.C(N)(=O)CNC(=O)C=1C=C2C(CC3(CCNCC3)OC2=CC1)=O
reactant | 3,5-diethoxy-4-(1-methyl-1H-pyrazol-4-yl)benzoic acid | 145 mg | C(C)OC=1C=C(C(=O)O)C=C(C1C=1C=NN(C1)C)OCC | C15H18N2O4
reactant | WSC hydrochloride | 115 mg | CCN=C=NCCCN(C)C.Cl
reactant | HOBT | 91.2 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | Water | O | H2O
solvent | triethylamine | 0.209 mL | C(C)N(CC)CC | C6H15N
product | N-Carbamoylmethyl-1′-{[3,5-diethoxy-4-(1-methyl-1H-pyrazol-4-yl)phenyl]carbonyl}-4-oxospiro[chroman-2,4′-piperidine]-6-carboxamide | C(N)(=O)CNC(=O)C=1C=C2C(CC3(CCN(CC3)C(=O)C3=CC(=C(C(=C3)OCC)C=3C=NN(C3)C)OCC)OC2=CC1)=O | C31H35N5O7
